US08530468B2
N-(1-Bromo-8-chloroisoquinolin-3-yl)acetamide
2-Chloro-6-(cyanomethyl)benzonitrile (3.12 g, 17.7 mmol) was added to a solution of HBr in acetic acid (20 mL) and stirred at room temperature overnight. The reaction mixture was added drop wise to a saturated solution of NaHCO3. The resulting precipitate was collected by filtration to give a yellow solid, which was stirred in dichloromethane (100 mL). Triethylamine (3.7 mL, 26.5 mmol) and acetyl chloride (1.9 mL, 26.7 mmol) were added and the reaction mixture was stirred overnight at room temperature. Solvents were evaporated and residue was triturated with water, then ether, to the title compound as a pale yellow solid (2.67 g, 8.91 mmol, 51%). 1H NMR (d6-DMSO, 400 MHz) δ 8.47 (s, 1H), 8.00 (dd, 1H, J=8.6, 1.3 Hz), 7.74-7.72 (m, 1H), 7.67-7.64 (m, 1H), 2.14 (s, 3H). LC-MS (1) Rt=2.05 min; m/z (ESI+) 299 (MH+).

reactant | 2-Chloro-6-(cyanomethyl)benzonitrile | 17.7 mmol, 3.12 g | ClC1=C(C#N)C(=CC=C1)CC#N | C9H5ClN2
reactant | HBr | Br | BrH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | Triethylamine | 26.5 mmol, 3.7 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 26.7 mmol, 1.9 mL | C(C)(=O)Cl | C2H3ClO
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-(1-Bromo-8-chloroisoquinolin-3-yl)acetamide | 8.91 mmol, 2.67 g, 51% | BrC1=NC(=CC2=CC=CC(=C12)Cl)NC(C)=O | C11H8BrClN2O
